US08084466B2
Intermediate 1; 3-Chloro-1H-indole-5-carbaldehyde.
To a stirred solution of 1H-indole-5-carbaldehyde (0.50 g, 3.44 mmol) in DCM (25 mL) was added N-chlorosuccinimide (0.44 g, 3.27 mmol). After 4 h, the mixture was washed with water (50 mL) and the organic layer was dried and concentrated to obtain the crude residue (0.62 g), which was used without purification. 1H NMR (CDCl3): 10.04 (s, 1H), 8.17-8.15 (m, 1H), 7.79 (dd, J=8.6, 1.5 Hz, 1H), 7.46 (d, J=8.6 Hz, 1), 7.29-7.28 (m,1H).

reactant | 1H-indole-5-carbaldehyde | 3.44 mmol, 0.50 g | N1C=CC2=CC(=CC=C12)C=O | C9H7NO
reactant | N-chlorosuccinimide | 3.27 mmol, 0.44 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-Chloro-1H-indole-5-carbaldehyde | 0.62 g | ClC1=CNC2=CC=C(C=C12)C=O | C9H6ClNO
